US04216218
A suspension of 7.65 g of 1-methyl-3-phenyl-4-piperidinol (approximately a 50:50 mixture of isomers) of Example 1 in 100 ml of benzene is added to a suspension of 1.2 g of sodium hydride in 50 ml dry benzene. The mixture is heated to reflux, and 25 ml of dry DMF are added dropwise over a 10-minute period. After refluxing for 1 hour, the mixture is cooled to room temperature and a solution of 6.53 g of p-chlorofluorobenzene in 50 ml of benzene is added all at once. After stirring for 18 hours at room temperature, 100 ml of DMF are added and the mixture is refluxed for 5 hours, then stirred for 18 hours at room temperature and then refluxed an additional 4 hours. The mixture is partitioned between ether and saturated aqueous NaCl solution. The aqueous phase is extracted with ether. The combined extracts are washed with water, saturated aqueous NaCl solution and dried over anhydrous MgSO4. Removal of the solvent in vacuo affords an oil. This material is dissolved in dichloromethane and extracted with 2 N HCl solution. The dichloromethane phase is washed with saturated aqueous NaHCO3 solution, dried over anhydrous MgSO4, filtered and concentrated in vacuo to afford an oil which crystallizes on standing. This material is chromatographed on silica gel, using acetone and then 25% methanol/acetone as solvent. A pure product, trans-4-(4-chlorophenoxy)-1-methyl-3-phenylpiperidine, is thus obtained, m.p. s 83.5°, 84.5°-87° C.

reactant | 1-methyl-3-phenyl-4-piperidinol | 7.65 g | CN1CC(C(CC1)O)C1=CC=CC=C1 | C12H17NO
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
reactant | p-chlorofluorobenzene | 6.53 g | ClC1=CC=C(C=C1)F | C6H4ClF
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | ClCCl | CH2Cl2
product | trans-4-(4-chlorophenoxy)-1-methyl-3-phenylpiperidine | ClC1=CC=C(O[C@H]2[C@@H](CN(CC2)C)C2=CC=CC=C2)C=C1 | C18H20ClNO
